US05750545
(1) Methyl 1-naphthoate
The synthesis method of Example 7-(1) was applied. 1--Naphthoic acid (4.97 g), methanol (10 ml), 1,2-dichloroethane (12 ml) and concentrated sulfuric acid (0.6 ml) were used as reagents and the mixture was stirred at 60° C. for 17 hours. After the reaction, the mixture was extracted with ether to give 4.35 g of a pale-yellow transparent liquid (yield 87%).

reactant | 1--Naphthoic acid | 4.97 g | C1(=CC=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | methanol | 10 ml | CO | CH4O
reactant | sulfuric acid | 0.6 ml | S(O)(O)(=O)=O | H2O4S
solvent | 1,2-dichloroethane | 12 ml | ClCCCl | C2H4Cl2
product | Methyl 1-naphthoate | 4.35 g, yield 87% | C1(=CC=CC2=CC=CC=C12)C(=O)OC | C12H10O2
